datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:82][C:71]([C-:10]1CCCCC[C:62]1=[O:61])=[O:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:82][C:71]([C:10]1([CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)CCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10](C(C)C)[C:61](=[O:62])[O:112]CC)=[O:72].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[O:82][C:71]([C:10](C(C)C)([CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"C[C:10](C)=[C:11]([O:12][Si:73](C)(C)C)[O:62]C.F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[C:10](C)([C:11](=[O+:12][Si:73](C)(C)C)[O:62]C)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"C[C:22]([CH:21]=[CH2:20])=[O:23].C[Si:11]([H:10])([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>C[C:22](=[CH:21][CH2:20][H:10])[O-:23].C[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20;20,21=21,22;22,23=23"
CC1(C)[O:62][C:111](=[O:112])[C-:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1(C)[O:62][C:111](=[O:112])[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1 10=20
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:11](=[CH2:10])[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[C+:11]([CH2:10][CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21"
"C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1>>C1=CC=C([S:32]([C-:21]([CH:20]([CH:10]2[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1 10=20;20,21=21"
Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:62]1=[C:61]([O:10][C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:72]=[CH:73][CH:64]=[CH:63]1 10=20
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1>>C1CN2CC[C:33]3=[CH:32][C:31]([CH:20]([H:10])[C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[Si:63]1(C)CCC[CH+:11][CH2:62]1 10,11=10,20"
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>CC(C)(C)[Si](C)(C)O[N+:12](O[Si](C)(C)C(C)(C)C)=[C:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1 10,11=10,20;12=11,12"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C2=CC=CC=C2)[O:12]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH2:10]C2=CC=CC=C2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[S:61](=[O:62])(=[O:72])[N:10]=[C:11]2[O-:12].Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>Cl[C:20]1([N:10]2[C:11](=[O:12])C3=C(C=CC=C3)[S:61]2(=[O:62])=[O:72])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
